US04636521
(i) Phenylmethyl[2-[5-[[(methylsulphonyl)amino]methyl]-1H-indol-3-yl]ethyl](methyl)carbamate
Benzyl chloroformate (1.1 ml) was added to a stirred, ice-cooled solution of N-[[3-[2-(methylamino)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide (1.3 g) and diisopropylethylamine (1.5 ml) in dry THF (40 ml). After 1/2 h, water (3 ml) was added and the stirring was continued for 1 h.

reactant | Benzyl chloroformate | 1.1 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-[[3-[2-(methylamino)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide | 1.3 g | CNCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C13H19N3O2S
reactant | diisopropylethylamine | 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 3 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Phenylmethyl[2-[5-[[(methylsulphonyl)amino]methyl]-1H-indol-3-yl]ethyl](methyl)carbamate | C1(=CC=CC=C1)COC(N(C)CCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C)=O | C21H25N3O4S
